US03991070
5-Bromo-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]-benzophenone (0.01 mole) and N-chlorosuccinimide (0.013 mole) in benzene is stirred and refluxed under a nitrogen atmosphere for 7 hours to give 5-bromo-2-[3-chloro-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-Bromo-2-[3-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]-benzophenone | 0.01 mole | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H15BrN4O3
reactant | N-chlorosuccinimide | 0.013 mole | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-bromo-2-[3-chloro-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C24H14BrClN4O3
